US06673931B2
In analogy to the procedure described in example 1 (j) the (3S,4R,5R)-3-[(2R)-3-hydroxy-2-(toluene-4-sulfonyloxy)-propoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester [example 1) (i)] was treated with sodium hydroxide in dimethylsulfoxide to yield the (3R,4R,5S)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(4-methoxy-naphthalen-2-ylmethoxy)-5-[(2S)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 714.3 (M+H)+.

reactant | (3S,4R,5R)-3-[(2R)-3-hydroxy-2-(toluene-4-sulfonyloxy)-propoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OC[C@@H](CO)OS(=O)(=O)C1=CC=C(C=C1)C | C49H59NO12S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (3R,4R,5S)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(4-methoxy-naphthalen-2-ylmethoxy)-5-[(2S)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OC[C@H]1OC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC2=CC=CC=C2C(=C1)OC | C42H51NO9
